US05185360
2-(N-Acetylamino-5,10-dihydroindeno[ 1,2-b]indole
A solution of phenylhydrazine (4.05 g, 37.5 mM), 5-(N-acetylamino)indan-1-one (Prepared by the method of N. L. Allinger and E. S. Jones (J. Org. Chem., 1962, 27, 70) (5.8 g, 30.7 mM), and 4-toluenesulphonic acid (0.005 g) in toluene (125 cm3) was heated in a Dean Stark apparatus for 2 hours. The reaction mixture was cooled and the product hydrazone filtered off as a pale brown microcrystalline solid (7.3 g, 85%), M.p. 252°-253° C. Finely crushed hydrazone (8.5 g, 30 mM) from the above experiment was added with stirring to a solution of polyphosphoric ester, prepared from phosphorus pentoxide (30 g), chloroform (30 cm3), and diethyl ether (cm3) together for 24 hours. Excess solvents were evaporated off and the residue heated at 60° C. for 45 min. After cooling, the tarry residue was poured into water (150 cm3) and chloroform (40 cm3) and the mixture was agitated vigorously for 10 min. The dark coloured solid which remained was collected and mixed with silica (6 g), and then added to the top of a column of silica (20 g) and the column was eluted with ethyl acetate. A pale yellow solid product was obtained from the eluant. Yield: 2.0 g, 27%. M.p. >240° C. 1H NMR (CDCl3) δ: 2.11 (3H, s), 3.50 (2H, s), 6.95-7.10 (2H, m), 7.33-7.50 (4H, m), 7.67 (1H, br.s).

reactant | phenylhydrazine | 37.5 mM, 4.05 g | C1(=CC=CC=C1)NN | C6H8N2
reactant | 5-(N-acetylamino)indan-1-one | C(C)(=O)NC=1C=C2CCC(C2=CC1)=O | C11H11NO2
reactant | 4-toluenesulphonic acid | 0.005 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | toluene | 125 cm3 | C1(=CC=CC=C1)C | C7H8
product | N-Acetylamino-5,10-dihydroindeno[ 1,2-b]indole | C(C)(=O)NN1C2=C(C=3C=CC=CC13)CC1=CC=CC=C12 | C17H14N2O
